US07141575B2
A suspension of 7-(2-furyl)-3-(6-phthalimidomethyl-2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (210 mg, 0.465 mmol) in EtOH (50 mL) was treated with ethylenediamine (62 μl, 0.929 mmol), stirred for 3 h at 90° C. and the resulting clear solution, cooled to room temperature and concentrated in vacuo to give 3-(6-aminomethyl-2-pyridylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine. A solution of this material in pyridine (10 mL) at 0° C. was treated with acetyl chloride (109 ml, 1.53 mmol), stirred for 10 min, poured into water (70 mL), extracted with EtOAc (3×20 mL) and the combined organic phase was dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; EtOAc] to give the title compound (110 mg, 65%) as a beige solid.

reactant | 7-(2-furyl)-3-(6-phthalimidomethyl-2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.465 mmol, 210 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)CN2C(C=1C(C2=O)=CC=CC1)=O | C23H16N8O3
reactant | ethylenediamine | 0.929 mmol, 62 μl | C(CN)N | C2H8N2
solvent | EtOH | 50 mL | CCO | C2H6O
product | 3-(6-aminomethyl-2-pyridylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | NCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC=CC2)N | C15H14N8O
